US07935724B2
6-Dibenzylamino-benzo[b]thiophene-2-carboxylic acid methyl ester.
Methyl 6-aminobenzothiophene-2-carboxylate (29 mg, 0.140 mmol) was dissolved in 1 mL of anhydrous DMF and reacted with benzyl bromide (40 μL, 0.38 mmol) in the presence of potassium carbonate (41 mg, 0.30 mmol) at 80° C. under a nitrogen atmosphere for 16 h. The reaction mixture was used in the next step without further purification. MS (EI): cal'd 388 (MH+), exp 388 (MH+).

reactant | Methyl 6-aminobenzothiophene-2-carboxylate | 0.140 mmol, 29 mg | NC1=CC2=C(C=C(S2)C(=O)OC)C=C1 | C10H9NO2S
reactant | benzyl bromide | 0.38 mmol, 40 μL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.30 mmol, 41 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-Dibenzylamino-benzo[b]thiophene-2-carboxylic acid methyl ester | COC(=O)C1=CC2=C(S1)C=C(C=C2)N(CC2=CC=CC=C2)CC2=CC=CC=C2 | C24H21NO2S
